US05364871
30 wt % Hydrogen peroxide (80.3 ml) was added dropwise to a solution of 2-(2-acetylaminoethyl)pyridine (64.5 g) in acetic acid (65 ml) at 70°-75° C. and the mixture was stirred at the same temperature for 8 hours. After the mixture was ice-cooled and the mixture was added to a mixture of sodium sulfite (56.9 g) in ice water (200 ml). The solvent was removed by concentration in vacuo and the residue was extracted with a tetrahydrofuran. The extract solution was dried over magnesium sulfate and evaporated to give 2-(2-acetylaminoethyl)pyridine N-oxide (70.82 g).

reactant | Hydrogen peroxide | 80.3 ml | OO | H2O2
reactant | 2-(2-acetylaminoethyl)pyridine | 64.5 g | C(C)(=O)NCCC1=NC=CC=C1 | C9H12N2O
reactant | sodium sulfite | 56.9 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
product | 2-(2-acetylaminoethyl)pyridine N-oxide | 70.82 g | C(C)(=O)NCCC1=[N+](C=CC=C1)[O-] | C9H12N2O2
